US08461157B2
A mixture of 5-bromo-2-methylpyrimidine (100 mg, 0.58 mmol), NBS (103 mg, 0.58 mmol), dibenzoyl peroxide (10 mg, 0.04 mmol) in tetrachloromethane (10 mL) was refluxed for 36 h. The solvent was removed in vacuo and the residue was purified by column chromatography on silica gel (ethyl acetate in petroleum ether, 1% v/v) to give 5-Bromo-2-(bromomethyl)pyrimidine (70 mg, 48%) as a white solid. 1HNMR (400 MHz, CDCl3) δ 4.49 (s, 2H), 8.72 (s, 2H).

reactant | 5-bromo-2-methylpyrimidine | 0.58 mmol, 100 mg | BrC=1C=NC(=NC1)C | C5H5BrN2
reactant | NBS | 0.58 mmol, 103 mg | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | dibenzoyl peroxide | 0.04 mmol, 10 mg | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | tetrachloromethane | 10 mL | ClC(Cl)(Cl)Cl | CCl4
product | 5-Bromo-2-(bromomethyl)pyrimidine | 70 mg, 48% | BrC=1C=NC(=NC1)CBr | C5H4Br2N2
